US06599916B2
Step 1a: Preparation of 5-phenylthiophene-2-carboxaldehyde.
5-Bromothiophene-2-carboxaldehyde (10 g, 5.2 mmol) is added to a solution of tetrakis(triphenylphosphine)palladium(O) (180 mg, 0.16 mmol) in degassed THF (10 mL). The resulting solution is stirred for 5 minutes. A solution of phenylboronic acid (760 mg, 6.2 mmol) in THF (10 mL) is added followed by aqueous Na2CO3 (2M, 5.2 mL). The mixture is heated at reflux for 24 hours. The reaction mixture is allowed to cool, poured into ether, and washed twice with water. The ether layer is dried over Na2SO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (1:1 hexanes:CH2Cl2) to yield the desired product (900 mg, 91%). 1H NMR (300 MHz, CDCl3) δ 7.38-7.45, 7.65-7.68, 7.73, 9.88.

reactant | 5-Bromothiophene-2-carboxaldehyde | 5.2 mmol, 10 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | phenylboronic acid | 6.2 mmol, 760 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 5.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.16 mmol, 180 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 5-phenylthiophene-2-carboxaldehyde | 900 mg, 91% | C1(=CC=CC=C1)C1=CC=C(S1)C=O | C11H8OS
